US05189161
9-Bromo-benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6(7H)-thione
A mixture of 9-bromobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6(7H)-one (12.8 g), 2,4-bis(4-methoxyphenyl-1,3-dithia-2,4-diphosphetane-2,4-disulfide (8.3 g), and toluene (500 ml) was refluxed for 2 hrs. The reaction mixture was allowed to stand overnight at room temperature. The precipitate was collected, washed with hexane, and dried overnight under vacuum at 40° C. to provide 9.6 g, (71.5%) of product. Recrystallization from chloroform gave the analytical sample, mp 214°-215° C.

reactant | 9-bromobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6(7H)-one | 12.8 g | BrC1=CC2=C(N3C4=C(C(N2)=O)C=CC=C4C=C3)C=C1 | C15H9BrN2O
reactant | 4-methoxyphenyl-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 8.3 g | COC1=CC=C(C=C1)P1(SP(S1)=S)=S | C7H8OP2S4
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Bromo-benzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepin-6(7H)-thione | 71.5% | BrC1=CC2=C(N3C4=C(C(N2)=S)C=CC=C4C=C3)C=C1 | C15H9BrN2S
